data/rdb19/train.csv
rxn,smiles,ea
3820,[C:13]([C:14]([C:15]([H:16])[C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[C:15]([C:14]([C:13]([H:19])([H:20])[H:21])([H:22])[H:23])([H:16])[C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7],17.02643319888739
1968,[C:11]([C:12]([O:13][C:14](=[O:15])[C:16]([H:17])[C:18]([C:19]([H:27])([H:28])[H:29])([H:25])[H:26])([H:23])[H:24])([H:20])([H:21])[H:22].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12]([O:13][C:14](=[O:15])[C:16]([H:17])=[C:18]([C:19]([H:27])([H:28])[H:29])[H:26])([H:23])[H:24])([H:20])([H:21])[H:22].[N:1]([C:2]([O:3])([C:4](=[C:5]([H:9])[H:10])[H:8])[H:25])([H:6])[H:7],52.9971838509664
2748,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([O:21][C:22](=[C:23]([H:28])[H:29])[H:27])([H:24])([H:25])[H:26]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])=[C:8]([C:9]([H:17])([H:18])[H:19])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:15][C:22]([O:21][C:20]([H:24])([H:25])[H:26])([C:23]([H:28])[H:29])[H:27],40.10678592458135
4356,[C:16]([C:17]([C:18]([H:19])[O:20][C:21](=[O:22])[C:23]([H:29])([H:30])[H:31])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([H:19])[O:20][C:21](=[O:22])[C:23]([H:29])([H:30])[H:31])[H:27])([H:24])([H:25])[H:26].[C:1]([O:2][C:3]([O:4])([C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])[H:28])([H:8])([H:9])[H:10],47.14637049043085
1265,[C:14]([C:15](=[O:16])[O:17][C:18](=[C:19]([H:24])[H:25])[H:23])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:18](=[C:19]([H:24])[H:25])[H:23].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[O:17][C:15]([C:14]([H:20])([H:21])[H:22])=[O:16])([H:11])[H:12])([H:8])([H:9])[H:10],74.16626904264558
1196,[C:14]([C:15](=[C:16]([H:23])[H:24])[C:17](=[O:18])[O:19][H:25])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:14]([C:15](=[C:16][H:24])[C:17](=[O:18])[O:19][H:25])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10],31.533476706244983
3482,[C:17]([O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:17]([H:21])([H:22])[H:23].[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])[H:10])([H:6])([H:7])[H:8].[H:9][O:18][C:19](=[C:20]([H:25])[H:26])[H:24],69.56575401162263
5539,[C:13]([C:14]([C:15]([H:16])[H:17])([N:18]([C:19](=[O:20])[H:26])[H:25])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[O:4][C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([N:18]([C:19](=[O:20])[H:26])[H:25])[H:24])([H:16])[H:17])([H:7])([H:8])[H:9].[C:5](=[C:6]([H:11])[H:12])[H:10],68.51855741039617
1307,[C:10]([O:11][O:12])([H:13])([H:14])[H:15].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[H:9][O:12][O:11][C:10]([H:13])([H:14])[H:15].[O:1]([C:2](=[O:3])[C:4](=[C:5][H:8])[H:7])[H:6],34.17244997882517
2524,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21]([C:22]([C:23]([H:31])([H:32])[H:33])([C:24]([H:34])([H:35])[H:36])[C:25]([H:37])([H:38])[H:39])([H:29])[H:30])([H:26])([H:27])[H:28]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])([H:10])[H:28])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21]([C:22]([C:23]([H:31])([H:32])[H:33])([C:24]([H:34])([H:35])[H:36])[C:25]([H:37])([H:38])[H:39])([H:29])[H:30])([H:26])[H:27],21.652984736021608
2877,[C:16]([C:17]([O:18][C:19](=[O:20])[C:21]([C:22]([H:32])([H:33])[H:34])([C:23]([H:24])[H:25])[H:31])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]=[C:7]([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:23]([C:21]([C:19]([O:18][C:17]([C:16]([H:26])([H:27])[H:28])([H:29])[H:30])=[O:20])([C:22]([H:32])([H:33])[H:34])[H:31])([H:24])[H:25],24.42158899933565
2161,[C:11]([C:12]([C:13]([H:14])[H:15])([N:16]([C:17](=[O:18])[H:24])[H:23])[H:22])([H:19])([H:20])[H:21].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[H:8][C:13]([C:12]([C:11]([H:19])([H:20])[H:21])([N:16]([C:17](=[O:18])[H:24])[H:23])[H:22])([H:14])[H:15].[N:1]([C:2](=[O:3])[C:4]=[C:5]([H:9])[H:10])([H:6])[H:7],24.276265237189364
